US04359466
2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino]-4-methyl-3-nitropyrrole
The title compound is prepared from 2-(2-Guanidino-4-thiazolylmethylthio)-ethylamine dihydrochloride and 2-methylsulphinyl-4-methyl-3-nitropyrrole by a process analogous to that described in Example 1.

reactant | 2-(2-Guanidino-4-thiazolylmethylthio)-ethylamine dihydrochloride | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | 2-methylsulphinyl-4-methyl-3-nitropyrrole | CS(=O)C=1NC=C(C1[N+](=O)[O-])C | C6H8N2O3S
product | 2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino]-4-methyl-3-nitropyrrole | N(C(=N)N)C=1SC=C(N1)CSCCNC=1NC=C(C1[N+](=O)[O-])C | C12H17N7O2S2
